US07220856B2
Preparation of 4-[4-(tert-Butoxycarbonyl)piperazin-1-yl]-7-chloro-2-quinolone
4,7-Dichloro-2-quinolone (192 mg, 0.88 mmol) and 1-tert-butoxycarbonylpiperazine (580 mg, 3.1 mmol) in n-butanol (10 mL) are heated in a sealed tube for 2 h at 150° C., when additional piperazine (200 mg) is added and heating is continued for further 18 h. After removing the solvent, the residue is purified by column chromatography with CH2Cl2-MeOH—NH4OH yielding the title product as a colorless solid.

reactant | 4,7-Dichloro-2-quinolone | 0.88 mmol, 192 mg | ClC1=CC(NC2=CC(=CC=C12)Cl)=O | C9H5Cl2NO
reactant | 1-tert-butoxycarbonylpiperazine | 3.1 mmol, 580 mg | C(C)(C)(C)OC(=O)N1CCNCC1 | C9H18N2O2
reactant | piperazine | 200 mg | N1CCNCC1 | C4H10N2
solvent | n-butanol | 10 mL | C(CCC)O | C4H10O
product | 4-[4-(tert-Butoxycarbonyl)piperazin-1-yl]-7-chloro-2-quinolone | C(C)(C)(C)OC(=O)N1CCN(CC1)C1=CC(NC2=CC(=CC=C12)Cl)=O | C18H22ClN3O3
